US06706723B2
Following the procedure outlined for the preparation of Example 1, 4-(4-aminomethyl-phenoxy)-phenol (0.70 g, 3.32 mmol) was reacted with 5-bromo-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione (0.95 g, 2.4 mmol), 1,5,7-trazabicyclo[4.4.0]dec-5-ene bound to polystyrene crosslinked with 2% DVB (PTBD, Fluka, 2.22 9) and 11 mL of acetonitrile, affording 5-[4-(4-aminomethyl-phenoxy)-phenoxy]-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione (0.180 g) as a colorless solid after purification by reverse phase HPLC.

reactant | 4-(4-aminomethyl-phenoxy)-phenol | 3.32 mmol, 0.70 g | NCC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C13H13NO2
reactant | 5-bromo-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione | 2.4 mmol, 0.95 g | BrC1(C(NC(NC1=O)=O)=O)CCOCC | C8H11BrN2O4
reactant | dec-5-ene | CCCCC=CCCCC | C10H20
reactant | PTBD | C1(C(OC(O1)(C(F)(F)F)C(F)(F)F)(F)F)(C2(C(OC(O2)(C(F)(F)F)C(F)(F)F)(F)F)F)F | C10F18O4
solvent | acetonitrile | 11 mL | C(C)#N | C2H3N
product | 5-[4-(4-aminomethyl-phenoxy)-phenoxy]-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione | 0.180 g | NCC1=CC=C(OC2=CC=C(OC3(C(NC(NC3=O)=O)=O)CCOCC)C=C2)C=C1 | C21H23N3O6
